US09260440B2
Compound 27: 8-fluoro-1-hydroxy-2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one
To a solution of 8-fluoro-2,2-dimethyl-2,3-dihydro-[1,2]diazepino[3,4,5,6-def]carbazole-1,6(5H, 10H)-dione (50 mg, 0.18 mmol) in 10 mL of MeOH, was added NaBH4 (0.18 mmol) at 0° C. The mixture was stirred for additional 30 min. The solution was poured into ice water, and extracted with EtOAc (5mL×3). The organic layers were combined, washed with H2O (5mL×3) and brine (5mL×3), dried over Na2SO4, and filtered. The filtrate was concentrated, and the residue was chromatographed to give the crude product which was then purified on Pre-HPLC to give the product (5 mg) as a yellow solid. 1H NMR (DMSO-d6) δ 11.9 (s, 1H), 10.1 (s, 1H), 7.23 (dd, 1H, J=9.2, 2.0 Hz), 7.17 (dd, 1H, J=10.8, 2.4 Hz), 5.68 (d, 1H, J=6.0 Hz), 5.49 (d, 1H, J=6.0 Hz), 2.31 (s, 2H), 1.00 (s, 3H), and 0.88 (s, 3H). MS (ESI) m/e [M+1]+ 288.

reactant | 8-fluoro-2,2-dimethyl-2,3-dihydro-[1,2]diazepino[3,4,5,6-def]carbazole-1,6(5H, 10H)-dione | 0.18 mmol, 50 mg | FC=1C=C2C=3C=4C(CC(C(C4NC3C1)=O)(C)C)=NNC2=O | C15H12FN3O2
reactant | NaBH4 | 0.18 mmol | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 8-fluoro-1-hydroxy-2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one | 5 mg | FC=1C=C2C=3C=4C(CC(C(C4NC3C1)O)(C)C)=NNC2=O | C15H14FN3O2
